US07902202B2
23: 9-[(2R)2-Deoxy-3,5-di-O-isobutyryl-2-C-ethynyl-2-fluoro-β-D-erythro-pentofuranosyl]guanine
A solution of 9-[(2R)-2-Deoxy-2-C-ethynyl-2-fluoro-β-D-erythro-furanosyl]guanine (0.16 mmol), 4-dimethylaminopyridine (0.01 mmol), triethylamine (0.48 mmol) and isobutyric anhydride (0.48 mmol), in acetonitrile (1 ml) was stirred at room temperature for 6 hours. The reaction mixture was hydrolysed with a NaHCO3 saturated solution. Ethyl acetate was added. The organic phase was separated, washed with NaCl saturated solution, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude material was purified by flash column chromatography (DCM/EtOH) to yield the title compound White powder. Molecular Formula C20H24FN5O6 1H NMR (DMSO-d6, 400 MHz) δ (ppm) 1.02-1.22 (m, 12H), 2.53-2.59 (m, 1H), 2.65-2.70 (m, 1H), 4.04 (d, J=4.77 Hz, 1H), 4.35-4.40 (m, 3H), 5.88-5.94 (dd, J=9.39 Hz and J=8.21 Hz, 1H), 6.21-6.25 (d, J=17.28 Hz, 1H), 6.58 (s, 2H), 7.09 (s, 1H), 10.82 (s, 1H). Scan ES+ 450.0 (M+H)+, UV λmax 251 nm

reactant | 9-[(2R)-2-Deoxy-2-C-ethynyl-2-fluoro-β-D-erythro-furanosyl]guanine | 0.16 mmol | C(#C)[C@@]1([C@@H](OC[C@H]1O)N1C=2N=C(NC(C2N=C1)=O)N)F | C11H10FN5O3
reactant | triethylamine | 0.48 mmol | C(C)N(CC)CC | C6H15N
reactant | isobutyric anhydride | 0.48 mmol | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.01 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2R)2-Deoxy-3,5-di-O-isobutyryl-2-C-ethynyl-2-fluoro-β-D-erythro-pentofuranosyl]guanine | C(C(C)C)(=O)O[C@H]1[C@]([C@@H](O[C@@H]1COC(C(C)C)=O)N1C=2N=C(NC(C2N=C1)=O)N)(F)C#C | C20H24FN5O6
